US06706702B2
A) 1-(11-Aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-11-yl)-2,2,2-trifluoro-ethanone
11-Aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene (1.22 g, 7.08 mmol) was stirred at 0° C. in CH2Cl2 (10 mL) and treated with triethylamine (0.94 mL, 10.6 mmol followed by TFAA (1.90 mL, 14.2 mmol). After ˜1 hour, the solution was poured into 0.5 N HCl (200 mL) and the layers separated. The aq. layer was extracted with CH2Cl2 (3×50 mL) and the combined organic layer was washed with 0.5 N HCl (50 mL), H2O (2×50 mL) and sat. aq. NaHCO3 soln. (50 mL). This solution was dried through a cotton plug, then diluted with ˜3% EtOAc and filtered through a 2 inch silica pad eluted with ˜3% EtOAc/CH2Cl2. Concentration afforded a clear oil (1.90 g, 99%). 1H NMR (CDCl3) δ 7.15-7.02 (4H), 4.67 (d, J=13.0 Hz, 1/2H), 4.42 (d, J=13.0 Hz, 1/2H), 4.03 (d, J=13.0 Hz, 1/2H), 3.81 (d, J=13.0 Hz, 1/2H), 3.44 (d, J=13.0 Hz, 1H), 3.29-2.99 (3H), (d, J=18.0 Hz, 1H), 2.37 (br s, 1/2H), 2.30 (br s, 1/2H), 2.04 (AB d, 2H). GCMS m/e 269 (M+).

reactant | 11-Aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene | 7.08 mmol, 1.22 g | C12C=3C=CC=CC3CC(CNC1)C2 | C12H15N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | TFAA | 14.2 mmol, 1.90 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | HCl | 0.5 N, 200 mL | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(11-Aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-trien-11-yl)-2,2,2-trifluoro-ethanone | 1.90 g, 99% | C12C=3C=CC=CC3CC(CN(C1)C(C(F)(F)F)=O)C2 | C14H14F3NO
